US04584290
A suspension of 1-(2-phthalimidoethyl)-3-benzoylthiopyridinium bromide (40 g) in 6N hydrochloric acid (510 ml) was heated under reflux for 10 hours and cooled to room temperature. The resulting precipitates were filtered off and washed with water. The filtrate and the washings were combined and washed with chloroform. The separated aqueous layer was evaporated to dryness under reduced pressure. The residue was triturated in acetone, and the resulting precipites were collected by filtlation and dried in vacuo to give 1-(2-aminoethyl)-3-mercaptopyridinium chloride hydrochloride (18.1 g).

reactant | 1-(2-phthalimidoethyl)-3-benzoylthiopyridinium bromide | 40 g | [Br-].C1(C=2C(C(N1CC[N+]1=CC(=CC=C1)SC(C1=CC=CC=C1)=O)=O)=CC=CC2)=O
reactant | hydrochloric acid | 6N, 510 ml | Cl | ClH
product | 1-(2-aminoethyl)-3-mercaptopyridinium chloride hydrochloride | 18.1 g | Cl.[Cl-].NCC[N+]1=CC(=CC=C1)S | InChI=1S/C7H10N2S.2ClH/c8-3-5-9-4-1-2-7(10)6-9;;/h1-2,4,6H,3,5,8H2;2*1H
